US07078417B2
2-Amino-6-(benzylsulfanyl)-4-(2,3-dihydro-1,4-benzodioxin-6-yl)-3,5-pyridinedicarbonitrile
100 mg (0.32 mol) of 2-amino-6-sulfanyl-4-(2,3-dihydro-1,4-benzodioxin-6-yl)-3,5-pyridinedicarbonitrile [prepared analogously to Dyachenko et al., Russian Journal of Chemistry 33 (7), 1014–1017 (1997); 34 (4), 557–563 (1998)], 110 mg (0.64 mmol) of benzyl bromide and 108 mg (1.29 mmol) of sodium bicarbonate are stirred in 2 ml of DMF at room temperature for 5.5 h. Water is then added and the mixture is extracted three times with ethyl acetate. The combined organic phases are dried with magnesium sulfate and concentrated under reduced pressure. The residue is taken up in diethyl ether, giving, after reconcentration, a crystalline product.

reactant | 2-amino-6-sulfanyl-4-(2,3-dihydro-1,4-benzodioxin-6-yl)-3,5-pyridinedicarbonitrile | 0.32 mol, 100 mg | NC1=NC(=C(C(=C1C#N)C1=CC2=C(OCCO2)C=C1)C#N)S | C15H10N4O2S
reactant | benzyl bromide | 0.64 mmol, 110 mg | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium bicarbonate | 1.29 mmol, 108 mg | C([O-])(O)=O.[Na+]
reactant | Water | O | H2O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 2-Amino-6-(benzylsulfanyl)-4-(2,3-dihydro-1,4-benzodioxin-6-yl)-3,5-pyridinedicarbonitrile | NC1=NC(=C(C(=C1C#N)C1=CC2=C(OCCO2)C=C1)C#N)SCC1=CC=CC=C1 | C22H16N4O2S
